US04514416
A suspension of 214 g of 2-benzoyl-4-cyanophenol in 1.7 liters of anhydrous methanol was saturated with anhydrous hydrogen chloride, while being cooled in ice and stirred. After having been stirred overnight at room temperature, the mixture was mixed with a large volume of ethyl ether. The precipitated crystals were collected by filtration and dried to yield 156 g of 2-benzoyl-4-methoxyiminomethylphenol hydrochloride.

reactant | 2-benzoyl-4-cyanophenol | 214 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)C#N)O | C14H9NO2
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | methanol | 1.7 liters | CO | CH4O
product | 2-benzoyl-4-methoxyiminomethylphenol hydrochloride | 156 g | Cl.C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)C=NOC)O | InChI=1S/C15H13NO3.ClH/c1-19-16-10-11-7-8-14(17)13(9-11)15(18)12-5-3-2-4-6-12;/h2-10,17H,1H3;1H
